US05234946
Diethyl thiazole-2,4-dicarboxylate (1.5 g) was suspended in 15 ml of ethanol, and at -10° C., 3 ml of an ethanol solution of 0.16 g of sodium borohydride and 0.58 g of calcium chloride was added. The mixture was stirred at this temperature for 2 hours. Acetone was added to decompose the excess of the reducing agent, and then the solvent was evaporated under reduced pressure. Dilute sulfuric acid was added to the residue, and insoluble calcium sulfate was separated by filtration. The filtrate was adjusted to pH 10 with an aqueous solution of potassium carbonate, and then extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, and then further concentrated under reduced pressure. The residue was treated with isopropyl ether to give 0.78 g (yield 64%) of ethyl 2-hydroxymethylthiazole-4-carboxylate as a colorless crystalline powder.

reactant | Diethyl thiazole-2,4-dicarboxylate | 1.5 g | S1C(=NC(=C1)C(=O)OCC)C(=O)OCC | C9H11NO4S
reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | calcium chloride | 0.58 g | [Cl-].[Ca+2].[Cl-]
reactant | Acetone | CC(=O)C | C3H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | ethyl 2-hydroxymethylthiazole-4-carboxylate | 0.78 g, yield 64% | OCC=1SC=C(N1)C(=O)OCC | C7H9NO3S
